US07662771B2
5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid
Dissolve 5-[4-(5-Chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester (0.32 g, 1.0 mmol) in CH2Cl2 (2 mL) under nitrogen at RT. Add boron tribromide (1M in CH2C2, 3 mL) and stir at RT until the reaction is complete. Quench the mixture into water and extract with EtOAc. Dry the combined extracts over Na2SO4 and concentrate. Chromatograph the resulting residue over silica gel (MeOH/CH2Cl2) to allow for isolation of 5-[4-(5-chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid (0.27 g, 91%). MS (ES): (M+1)+ 296.1, 298.1 m/z.

reactant | 5-[4-(5-Chloro-2-methoxy-phenyl)-oxazol-2-yl]-pentanoic acid methyl ester | 1.0 mmol, 0.32 g | COC(CCCCC=1OC=C(N1)C1=C(C=CC(=C1)Cl)OC)=O | C16H18ClNO4
reactant | boron tribromide | 1M, 3 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-[4-(5-Chloro-2-hydroxy-phenyl)-oxazol-2-yl]-pentanoic acid | ClC=1C=CC(=C(C1)C=1N=C(OC1)CCCCC(=O)O)O | C14H14ClNO4
